US07812183B2
4-(Benzo[d]isothiazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #20)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and benzo[d]isothiazol-3-one as starting material, the title compound was prepared as a white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | benzo[d]isothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
product | 4-(Benzo[d]isothiazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | S1N=C(C2=C1C=CC=C2)OC2C(C(OC1=CC=C(C=C21)C#N)(C)C)O | C19H16N2O3S
